* source PRE-REG-Z-DIODE
V_V1         N14451 0  AC 0V
+SIN 25V 0V 100Hz 0 0 0
X_D1         0 N14469 Zener PARAMS: VZT=17 TCBV=1.428e+1 
R_R1         N14469 N14451  1k TC=0,0 
Q_Q1         N14451 N14469 N14555 QBD135-16/PLP 
I_I1         N14555 0 DC 1mAdc  
C_C1         0 N14469  100n  TC=0,0 
C_C2         0 N15074  100n  TC=0,0 
X_D2         N15074 0 Zener PARAMS: VZT=17 TCBV=1.428e+1 
V_V2         N15020 0  AC 0V
+SIN -25V 0V 100Hz 0 0 0
I_I2         N15064 0 DC -120mAdc  
R_R2         N15074 N15020  430 TC=0,0 
Q_Q3         N15020 N15074 N15064 QBD136/PLP 
